US09428465B2
Step 1. Preparation of tert-butyl 3-(cyclopropylmethyl)-5-methyl-2,4-dioxo-pyrimidine-1-carboxylate
Tert-butyl 5-methyl-2,4-dioxo-pyrimidine-1-carboxylate (0.10 g, 0.44 mmol) was dissolved in dry MeCN (2.2 mL) and cesium carbonate was added (0.22 g, 0.66 mmol), followed by (bromomethyl)cyclopropane (0.13 mL, 1.33 mmol). The reaction mixture was stirred under nitrogen atmosphere at room temperature for 18 hrs. The reaction was then diluted with EtOAc and saturated aqueous NH4CI solution was added. The aqueous layer was extracted with EtOAc (3×15 mL), the combined organic phases were washed with brine, dried over Na2SO4 and the solvent was removed under reduced pressure. The crude was purified by column chromatography using a Teledyne ISCO apparatus (petroleum ether:EtOAc 80:20) to afford the title compound (0.09 g, 72%) as white solid. 1H NMR (400 MHz, CDCl3) δ 0.38-0.43 (m, 2H), 0.43-0.50 (m, 2H), 1.21-1.32 (m, 1H), 1.61 (s, 9H), 1.97 (s, 3H), 3.84 (d, J=7.2 Hz, 2H), 7.64 (s, 1H). MS (ESI) m/z: 303 [M-Na]−.

reactant | Tert-butyl 5-methyl-2,4-dioxo-pyrimidine-1-carboxylate | 0.44 mmol, 0.10 g | CC=1C(NC(N(C1)C(=O)OC(C)(C)C)=O)=O | C10H14N2O4
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (bromomethyl)cyclopropane | 1.33 mmol, 0.13 mL | BrCC1CC1 | C4H7Br
solvent | MeCN | 2.2 mL | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl 3-(cyclopropylmethyl)-5-methyl-2,4-dioxo-pyrimidine-1-carboxylate | 0.09 g, 72% | C1(CC1)CN1C(N(C=C(C1=O)C)C(=O)OC(C)(C)C)=O | C14H20N2O4
